US05958942
ii) Synthesis of 4,5-dihydro-4-[3-(1-trifluoromethanesulfonylpiperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one
In 20 ml of acetonitrile was suspended 1.37 g (3.69 mM) of 4,5-dihydro-4-[3-(piperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one hydrochloride followed by addition of 1.1 ml (7.38 mM) of DBU at room temperature with stirring. To the resulting solution was added 1.0 ml (7.38 mM) of triethylamine as well as 6.59 g (18.45 mM) of N-phenyltrifluoromethanesulfonimide and the mixture was stirred at room temperature for 16 hour. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was extracted with 100 ml of chloroform. The organic layer was washed with 100 ml of saturated aqueous NaCl solution and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol=50:1) to provide 1.08 g (yield 68.3%) of the title compound as light-yellow solid.

reactant | 4,5-dihydro-4-[3-(piperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one hydrochloride | 3.69 mM, 1.37 g | Cl.N1CCC(CC1)CCCN1C(C2=CN=C3C=CC=C(C1)N32)=O
reactant | DBU | 7.38 mM, 1.1 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | triethylamine | 7.38 mM, 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 18.45 mM, 6.59 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4,5-dihydro-4-[3-(1-trifluoromethanesulfonylpiperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one | 1.08 g, yield 68.3% | FC(S(=O)(=O)N1CCC(CC1)CCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C18H21F3N4O3S
